US07632850B2
12.2. 2-amino-2-oxoethyl [4-(4-phenyl-1H-imidazol-1-yl)phenyl]methylcarbamate
A solution of 1.0 g (4 mmol) of [4-(4-phenyl-1H-imidazol-1-yl)phenyl]methanol, prepared in step 12.1., 0.485 g (4.80 mmol) of 1,3-oxazolidine-2,4-dione and 1.15 g (4.38 mmol) of triphenylphosphine in 16 ml of tetrahydrofuran, cooled by a bath of acetone and ice, is admixed dropwise with 0.80 g (4 mmol) of diisopropyl azodicarboxylate in solution in 2 ml of tetrahydrofuran. The mixture is subsequently warmed to ambient temperature again and stirred overnight. 9 ml of the solution are taken, to which are added 12 ml of a 7N ammonia solution (84 mmol) in methanol. The mixture is left to react overnight, admixed with 4 g of silica and evaporated to dryness. The product is purified by chromatography on silica gel, eluting with a 95/5 then 93/7 and 90/10 mixture of dichloromethane and methanol. The product is recrystallized from a mixture of methanol and diisopropyl ether, to give 0.429 g of product in the form of white crystals.

reactant | [4-(4-phenyl-1H-imidazol-1-yl)phenyl]methanol | 4 mmol, 1.0 g | C1(=CC=CC=C1)C=1N=CN(C1)C1=CC=C(C=C1)CO | C16H14N2O
reactant | 1,3-oxazolidine-2,4-dione | 4.80 mmol, 0.485 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | triphenylphosphine | 4.38 mmol, 1.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 4 mmol, 0.80 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | ammonia | 84 mmol, 7N | N | H3N
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
product | 2-amino-2-oxoethyl [4-(4-phenyl-1H-imidazol-1-yl)phenyl]methylcarbamate | 0.429 g | C1(=CC=CC=C1)C=1N=CN(C1)C1=CC=C(C=C1)CNC(OCC(=O)N)=O | C19H18N4O3
